US07309703B2
C. 4-(2-Amino-6-chloro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
A solution of 342 mg (1 mmol) of 4-(2-chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester in 5.0 mL of MeOH was treated with 630 mg (10 mmol, 10 eq) of ammonium formate and a catalytic amount of 10% Pd—C (34 mg). The reaction mixture was stirred at 65° C. for 30 min. The reaction mixture was then filtered through a pad of celite and concentrated to obtain a yellow solid. TLC (silica, 5% acetone/CH2Cl2): Rf=0.40. MS (electrospray): exact mass calculated for C15H22ClN3O2, 311.14; m/z found, 312.1 [M+H]+.

reactant | 4-(2-chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1 mmol, 342 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1[N+](=O)[O-])Cl | C15H20ClN3O4
reactant | ammonium formate | 10 mmol, 630 mg, 10 eq | C(=O)[O-].[NH4+]
reactant | acetone CH2Cl2 | CC(=O)C.C(Cl)Cl
solvent | MeOH | 5.0 mL | CO | CH4O
catalyst | Pd—C | 34 mg | [Pd] | Pd
product | 4-(2-Amino-6-chloro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1Cl)N | C15H22ClN3O2
